US05616579
72(a) N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-5-chloropentanamide
Following a procedure similar to that described in Example 67(a), but using 4-(4-piperidinomethyl-2-pyridyloxy)-cis-2-butenylamine and 5-chlorovaleryl chloride as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as an oil in a 93% yield.

reactant | 4-(4-piperidinomethyl-2-pyridyloxy)-cis-2-butenylamine | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CN | C15H23N3O
reactant | 5-chlorovaleryl chloride | ClCCCCC(=O)Cl | C5H8Cl2O
product | N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-5-chloropentanamide | 93% yield | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCCCCl)=O | C20H30ClN3O2
